US08669271B2
4-Benzofuran-2-yl-piperidine-1-carboxylic acid isopropyl ester
Isopropyl chloroformate (1 M in toluene, 4.06 mL) is added dropwise to an ice-cooled mixture of 4-benzofuran-2-yl-piperidine hydrochloride (804 mg) and ethyldiisopropylamine (1.16 mL) in dichloromethane (15 mL). The resulting mixture is stirred over night at room temperature. Water is added and the organic phase is separated, washed with water and dried over MgSO4. The solvent is evaporated leaving the title compound as an oil. Yield: 930 mg (96% of theory); LC (method 1): tR=1.39 min; Mass spectrum (ESI+): m/z=288 [M+H]+.

reactant | Isopropyl chloroformate | 1 M, 4.06 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | 4-benzofuran-2-yl-piperidine hydrochloride | 804 mg | Cl.O1C(=CC=C2C1=CC=C2)N2CCCCC2
reactant | ethyldiisopropylamine | 1.16 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-Benzofuran-2-yl-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1C(CCCC1)C1=CC=C2C(=CC=C2)O1 | C17H21NO3
